### PR TITLE
[Merged by Bors] - chore: remove a superfluous backcompat option

### PR DESCRIPTION
**Pull request by grunweg**
Spotted by the nolints bot in #43506.
Merely removing the option triggers two 'unused simp arguments' warnings, so let's extract this change separately.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adomani** [comment]
Thanks!

bors d+

**Comment by grunweg** [comment]
That's a really fast review. Thanks! I'll bors since I built the file locally.
bors merge

File: Mathlib/RingTheory/Extension/Presentation/Basic.lean [hunk 1]
```diff
@@ -369,7 +368,7 @@ private lemma compRelationAux_map (r : σ') :
   rw [AddMonoidAlgebra.ofCoeff_finsuppSum]
   congr
   ext u s m
-  simp only [aeval, AlgHom.coe_mk, coe_eval₂Hom, map_one, one_mul]
+  simp only [aeval, map_one, one_mul]
   change (eval₂ (algebraMap R (MvPolynomial ι' S)) (C ∘ P.val) (P.σ s) *
       (Finsupp.mapDomain Sum.inl u).prod fun i k ↦ Sum.elim X (C ∘ P.val) i ^ k).coeff m =
         (monomial u s).coeff m
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/Extension/Presentation/Basic.lean:374]: With the `change` still being present, I don't think we've actually "removed" a technical debt, we just hid it!

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Extension/Presentation/Basic.lean:374]: @grunweg

Comment (Multramate) [reply Mathlib/RingTheory/Extension/Presentation/Basic.lean:374]: I agree.

Comment (grunweg) [reply Mathlib/RingTheory/Extension/Presentation/Basic.lean:374]: I see. Please be my guest to fix the technical debt properly! (I don't know this area well enough to do so efficiently. But I do care about unbreaking the automatic exception removal.)
Having a proof without `change` would be the best outcome indeed.
